Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
- patient found unresponsive at home
 
Major Surgical or Invasive Procedure:
- LP
 
History of Present Illness:
The patient is a ___ year old male with no significant past 
medical or psychiatric history who was brought in by EMS after 
being found unresponsive in bed with nystagmus. Prior to this 
episode of unresponsiveness, the patient had several days of 
decreased sleep, erratic, impulsive behavior including quitting 
his job, and increased religiosity. The patient also had an 
episode of unresponsiveness, odd eye movements, and 
incontinence, concerning for seizure. The patient [was] being 
admitted to the neurology service for workup for neurologic 
causes of new onset mania/psychosis, including auto-immune, 
infectious, or paraneoplastic causes. Psychiatry was consulted 
to assist with management.

EMS runsheet: Found completely unresponsive in bed with 
nystagmus. Even upon EMS arrival was completely unresponsive. 3 
minutes later completely woke up and was back to baseline. Pt 
states "he was being call to God". No sz hx. Pt a/o x 3. FSBS 
122.

The patient received 5 Haldol: 2 Ativan in the ED prior to a 
lumbar puncture.

On initial psychiatric interview in the emergency toom, two 
hours after chemical restraint, the patient is extremely 
difficult to arouse. I turned on the light, shook his shoulder, 
and shouted his name. The patient would momentarily wake up and 
then fall back asleep again. He said he did not know where he 
was or why he was here. He said he thought he had been in an 
accident. The patient was able to give me his wife's phone
number from memory.

Unable to obtain psychiatric review of systems due to extreme 
patient somnolence.

Collateral:
Wife ___ ___
I went away last week and when I came back on ___ (five days 
before presentation) he seemed irritable and short-tempered. I 
just thought it was because he was home with the kids. There was 
a nanny here. He had basically been a single parent. On 
___ it was like a switch went off. He seemed extremely 
happy and euphoric. And loving. He kept telling me how much he 
loved me. Today he came home euphoric and told me he had 
something to tell me. He sat me down and said that he had been 
given all these signs and it clicked today. At 1:00 God told him 
that he needed to quit his job. He immediately quit his job at 
1:00. God told him that he needed to give away all his money and 
sell the house. Our job was to bring up our three children 
according to the word
of God.

He was saying, God is who we are, Jesus lives in us all. We have 
never been very religious we don't even go to Church he is 
Catholic.

He told me tonight that he took most of our money and put it 
into a charitable gift fund. Millions of dollars. He had heard 
from God that we had to give away all of our money.

I freaked out, called his mother. She spoke with him, he was 
altered, didn't make any sense. Was very euphoric, very happy, 
very content. I spoke with his bosses to confirm that he had 
indeed quit. They were very concerned about him. I called his 
doctor and when I was on the phone with her and I went to check 
on him and he was resting on our bed. I couldn't wake him up. 
The doctor called ___. They couldn't get a response from him. He 
did lose bladder control. Took awhile to revive him.

We were able to get into the ambulance and get into the 
hospital.

When he did wake up he was talking about how he was moving 
towards the light and Jesus loves us all. This has never 
happened before. When we were in the ER they wanted to do 
neurological tests on him and he wanted to refuse them. He said 
this was God's plan. That's when he told me he had transferred 
the money into the charitable gift fund.

With all of the doctors and ___ was joking with them, he 
was euphoric, several comments that were not typical. He told 
the neurologist that she was beautiful and made jokes he would 
never make. He has always handled stress by joking and laughter 
but this is a step beyond that.

Normally he is outgoing, he is personable. He is a great father, 
although I also found out that he had a very serious 
conversation with my daughter about life.

He seems euphoric, transcendent.

Wrote stuff about when he is gone he feels sorry for everyone 
here bc they don't have the love of god.

The patient did not want to do any more tests because he said 
that if he is supposed to die he is fine with it. He wrote down 
some passive suicidal thoughts."

ED course notable for haloperidol 5 mg IM and lorazepam 2 mg IM 
prior to LP. Per Neuro consult recommended workup including EEG, 
MRI, and LP, results with low suspicion for primary neurological 
etiology.

Upon arrival to Deac4, reports current mood as "good, relaxed". 
Shares that he is a bit confused by the events/behaviors of the 
past week and is unsure what to make of it, other than that he 
recalls having reached a very deep state of meditation which 
also led to incontinence (describes it as having been a feeling 
of positive release and relaxation to the point of losing bowel 
function). Otherwise, feels that he was going about his life 
with "business as usual, just a bit more euphoric". Currently 
denies SI/HI/AVH.

On ROS, denies depressed mood, anhedonia, appetite/weight 
change, hypersomnia/insomnia, fatigue/loss of energy, diminished 
concentration, psychomotor agitation/retardation, 
worthlessness/guilt, hopelessness, recurrent thoughts of death, 
thought broadcasting/insertion, hallucinations, decreased need 
for sleep (reports baseline he sleeps 8 hours a night), panic 
attacks, phobias, rumination, obsessions, compulsions, 
nightmares, flashbacks, hypervigilance, avoidance, body image 
issues, restricting/binging/purging/hyperexercise.

 
Past Medical History:
PAST PSYCHIATRIC HISTORY: 
- Hospitalizations: No
- Current treaters and treatment: No
- Medication and ECT trials: In ___ he was in the senior year 
of
college, didn't get dream job right away. Went briefly on
antidepressants, resolved itself once he got a job. In the past
year he has developed anxiety around flying. Had a panic attack
and missed a business trip because of it. Talked to PCP about
panic.
No history of manic episodes- decreased need for sleep with 
increased goal directed behaviors. Of note however is that Mr 
___ works in the ___ in which quick decision 
making is an asset. At baseline his wife describes him as a fast 
talker when he wants to prove a point and a ‘very happy’ person. 

- Self-injury: No
- Harm to others: No
- Access to weapons: No

PAST MEDICAL HISTORY: [Per Dr. ___ initial 
consultation note dated ___.
- Left shoulder injury
- Raynauds
- Psoriasis on his head
- Basal cell carcinoma on top of his head

MEDICATIONS including vitamins, herbs, supplements, OTC: [Per 
Dr. ___ initial consultation note dated ___.
- Inhaler as needed.

ALLERGIES: [Per Dr. ___ initial consultation 
note dated ___.
- Seasonal.

 
Social History:
SUBSTANCE ABUSE HISTORY: 
- Two puffs of marijuana in the past year.
- a marijuana gummy in ___ prior to a ___ concert (patient 
reports throwing out the rest of the gummies because he did not 
like the way it made him feel)
- Beer ___ times per week when playing hockey or baseball.
- No other drugs.

FORENSIC HISTORY: ___
SOCIAL HISTORY: ___
Family History:
FAMILY PSYCHIATRIC HISTORY: 
- Both father and mother are on antidepressants, and have had  
depressed.
- In the last year his dad has had a cognitive decline and 
personality change after a serious stroke. Had inappropriate 
sexual behavior. He has early stage ___ body dementia. Mr 
___ does report that his father had a history of getting 
intensity interested in an activity ‘he would get involved with 
the local ___ and my mom would barely see him 
for 3 months’
 
Physical Exam:
EXAM:
- VS: T 98.2, BP 136/100, HR 71, RR 18, SpO2 98%RA

General:
- HEENT: normocephalic, atraumatic, moist mucous membranes,
oropharynx clear, supple neck, no scleral icterus
- Cardiovascular: regular rate and rhythm, S1/S2 heard, no
murmurs/rubs/gallops           
- Pulmonary: no increased work of breathing, lungs clear to
auscultation bilaterally, no wheezes/rhonchi/rales
- Abdominal: non-distended, bowel sounds normoactive, no
tenderness to palpation in all quadrants, no guarding, no 
rebound
tenderness
- Extremities: warm and well-perfused, no edema of the limbs
- Skin: no rashes or lesions noted

Neurological:
- Cranial Nerves:
     - I: olfaction not tested
     - II: PERRL 3 to 2 mm, both directly and consentually; 
brisk
bilaterally, VFF to confrontation
     - III, IV, VI: EOMI without nystagmus
     - V: facial sensation intact to light touch in all
distributions
     - VII: no facial droop, facial musculature symmetric and 
___
strength in upper and lower distributions, bilaterally
     - VIII: hearing intact to finger rub bilaterally
     - IX, X: palate elevates symmetrically
     - XI: ___ strength in trapezii and SCM bilaterally
     - XII: tongue protrudes in midline
- Motor: normal bulk and tone bilaterally, no abnormal 
movements,
no tremor, strength ___ throughout
- Sensory: no deficits to fine touch throughout

Cognition:
- Wakefulness/alertness: Alert, awake.
- *Attention (digit span, MOYB): Attentive throughout interview,
MOYB with 0 errors.
- *Orientation: Oriented to self, ___, ___, situation.
- Executive function (go-no go, Luria, trails, FAS): Deferred.
- *Memory: ___ registration, ___ spontaneous recall. Short and
long-term grossly intact.
- *Fund of knowledge: Appropriate. Names current and former
presidents as ___, ___, ___.
- Calculations: $1.75 = 7 quarters.
- Abstraction: Bicycle/train = "transportation". Those in glass
houses should not throw stones = "Don't be a hypocrite, don't
talk about other people."
- Visuospatial: Deferred.
- *Speech: Coherent, normal rate, volume, tone, prosody.
- *Language: Fluent ___, appropriate to conversation.

Mental Status:
- *Appearance: ___ year old Caucasian man appearing stated age,
short light brown hair, well-appearing, toned physique, wearing
hospital gown, fair hygiene/grooming.
- Behavior: Calmly sitting in chair, good eye contact, no
psychomotor agitation/retardation.
- *Mood and Affect: Bright affect, reactive.
- *Thought process / *associations: Linear, goal oriented, no
loose associations.
- *Thought Content: No SI/HI/AVH, no delusions/paranoia. Does 
not
appear internally preoccupied.
- *Judgment and Insight: Limited regarding insight into
behaviors/thought process in past week, currently fair
judgment/insight in agreeing for inpatient admission for
diagnostic clarification and recommended treatments as 
indicated.

 
Pertinent Results:
___ 03:00AM CEREBROSPINAL FLUID (CSF)  PROTEIN-19 
GLUCOSE-70
___ 03:00AM CEREBROSPINAL FLUID (CSF)  TNC-0 RBC-103* 
POLYS-0 ___ ___ 03:00AM CEREBROSPINAL FLUID (CSF)  TNC-1 RBC-2700* 
POLYS-44 ___ MONOS-17

MR ___ (___):
"FINDINGS: There is no evidence of hemorrhage, edema, masses, 
mass effect, midline shift or infarction.  The ventricles and 
sulci are normal in caliber and configuration. There is no 
abnormal enhancement after contrast administration. Paranasal 
sinuses and mastoid air cells are normal.  The orbits appear 
normal.  
IMPRESSION:   
1. Normal enhanced ___ MRI."

CT Head Without Contrast (___):
"FINDINGS: There is no intra-axial or extra-axial hemorrhage, 
mass, midline shift, or acute major vascular territorial 
infarct. Gray-white matter differentiation is preserved. 
Ventricles and sulci are unremarkable.  Basilar cisterns are 
patent. 
   Included paranasal sinuses and mastoids are essentially 
clear.  Skull and extracranial soft tissues are unremarkable. 
IMPRESSION: No acute intracranial process."

 
Brief Hospital Course:
Brief Hospital Course:

1. LEGAL & SAFETY:  
On admission, the patient signed a conditional voluntary 
agreement (Section 10 & 11) and remained on that level 
throughout their admission. He was also placed on q15 minute 
checks status on admission and remained on that level of 
observation throughout while being unit restricted. On ___, he 
was granted the privilege of fresh air group walks. 

2. PSYCHIATRIC:
Mr. ___ inpatient psychiatric care was notably uneventful. 
His mental status quickly returned to his premorbid baseline, 
with the exception of residual religiosity which is a change 
from Mr. ___ prior beliefs. He states that throughout his 
life, he has always felt uncertain about the existence of god -- 
an uncertainty he likens to the feeling he has before making a 
decision about whether to buy or sell a stock. During the 
episode leading up to his admission, he became hyper-religious. 
He remains religious.

In terms of diagnostic assessment, psychiatry coordinated 
closely with neurology. Through these discussions, it was 
determined that Mr. ___ most likely had suffered from from a 
temporal lobe seizure. It was thought to be less likely that he 
had experienced a manic episode with previously undiagnosed 
bipolar type I disorder. Given bowel incontinence, reduced level 
of consciousness, irregular eye movements, increased 
religiosity, and hypergraphia, temporal lobe seizure was deemed 
more likely than mania. 

In terms of management, Mr. ___ was briefly prescribed PRN 
olanzapine (Zyprexa), which he used once. He was also briefly 
prescribed divalproex PRN, but did not use this medication. A 
standing anti-epileptic medication was considered, but Mr. 
___ refused. Per discussion with neurology, Mr. ___ agreed 
to start an anti-epileptic if another seizure occurred. It was 
also clarified (per neurology) that there was no need to wait 
until EEG to start an anti-epileptic. 

On ___, a family meeting was held with Mr. ___ wife ___ 
and his mother, as well as the treatment team. Previously, Mr. 
___ had been reluctant to try a mood stabilizer with dual 
anti-epileptic coverage. However, during the family meeting, his 
wife communicated her concerns strongly about recurrence, and 
Mr. ___ reconsidered his reluctance, agreeing to a 6-month 
trial of oxcarbazepine (Trileptal). Accordingly, Trileptal was 
initiated on ___, with a brief period to monitor side effects 
overnight prior to discharge on ___.

In terms of long-term planning, outpatient EEG, and outpatient 
psychiatry appointments were arranged. The family was provided 
with a phone number to make an appointment at their convenience 
for neurology outpatient follow-up.

3. SUBSTANCE USE DISORDERS:
#) Initial urine toxicology screen was pan-negative (aspirin, 
ethanol, acetaminophen, tricyclics). On interview, Mr. ___ 
reported rare cannabis use, two puffs within the last year, and 
most recently a cannabis gummy from a local dispensary prior to 
a ___ concert (___). He also reported ___ beers per week. 
He denied any cocaine, opiate, or other substance use. 
Accordingly, he was deemed not to have any substance use 
disorder. 

4. MEDICAL
#) Please see Psychiatric for a discussion about possible 
temporal lobe seizure vs. bipolar disorder with an episode of 
mania. No other significant medical conditions were managed 
during Mr. ___ inpatient psychiatric care. 

5. PSYCHOSOCIAL
#) GROUPS/MILIEU:  
The patient was encouraged to participate in the various groups 
and milieu therapy opportunities offered by the unit. He enjoyed 
his time on the unit, stating he had witnessed "nothing but 
small acts of kindness." He was notably appreciated by others as 
a good listener and source of support, and could often be seen 
engaged with peers in the milieu. He reported that he felt 
fortunate to be able to connect with the other patients on the 
unit. And he participated in groups -- particularly enjoying the 
exercise and music groups. 

#) COLLATERAL INFORMATION AND FAMILY INVOLVEMENT
- Family meeting with his wife ___, his mother, and the team 
on ___.
- His wife ___ provided additional history (see HPI).
- Dr. ___ also provided some additional history 
regarding question of cardiac arrhythmia, but reported that a 
48-hour Holter monitor had been reassuring. 

#) INTERVENTIONS
- Medications:
    -olanzapine (Zyprexa) PRN, one dose given, and then stopped, 
due to concern for lowering seizure threshhold
    -valproate (Divalproex) ordered PRN, but never dispensed
    -oxcabazepine (Trileptal) started on ___
- Psychotherapeutic Interventions: Individual, group, and milieu 
therapy.
- Coordination of aftercare: 
- Behavioral Interventions (e.g. encouraged DBT skills, ect): 
The benefits of tracking and maintaining consistent, full sleep 
was discussed. The benefits of avoiding or reducing coffee, 
chocolate, and alcohol to reduce likelihood of seizure were 
discussed. 

RISK ASSESSMENT & PROGNOSIS
On presentation, Mr. ___ was evaluated and felt to be at a 
low risk of self-harm. Mr. ___ never expressed any thoughts 
of wanting to harm himself during his time on Deaconess 4. 
Protective factors include stable employment (up to the time of 
current admission), support of family, married status, absence 
of any prior psychiatric history, and absence of history of 
suicidal ideation. Risk factors include: suspected newly 
diagnosed chronic medical illness (seizure disorder), male 
gender, and Caucasian race. During Mr. ___ time with us, we 
did not see any convincing evidence supporting concern for 
significantly increased risk of self-harm. Accordingly, 
interventions did not focus on this. Finally, the patient is 
being discharged with many protective risk factors, such as 
future-oriented viewpoint, help-seeking attitude, sense of 
responsibility for family and children, problem-solving skills, 
lack of suicidal ideation, absence of substance use disorder, 
many hobbies and interests, grateful attitude regarding his 
life, religion, and robust self-esteem. Overall, Mr. ___ is 
not at an acutely elevated risk of self-harm nor danger to 
others due to acutely decompensated psychiatric illness. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Albuterol Inhaler 1 PUFF IH DAILY:PRN shortness of breath 

 
Discharge Medications:
1.  OXcarbazepine 600 mg PO BID 
one half tablet BID for one week
one tablet BID thereafter
dispense 60 tablets
one month supply
2.  Albuterol Inhaler 1 PUFF IH DAILY:PRN shortness of breath  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
- temporal lobe seizure disorder vs. bipolar I disorder

 
Discharge Condition:
- Ambulatory, awake, alert, and conversational
- Residual religiosity new since episode that precipitated 
admission

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___